US05714487
(7R,8aS)-7-(4-Fluorobenzyl)oxy-2-(5-fluoropyrimidin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine
A solution of 0.75 g (3.15 mmol) of (7R,8aS)-7-hydroxy-2-(5-fluoropyrimidin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine (Preparation 6) and 0.79 mL (6.3 mmol) of 4-fluorobenzyl bromide in 30 mL of dry DMF was treated with 0.15 g (3.8 mmol) of sodium hydride (60% oil dispersion), and the mixture was heated at 100° C. for 18 h. The mixture was cool, diluted with water, and extracted with diethyl ether (5×). The combined organic phase was dried (magnesium sulfate), filtered and evaporated. Purification by flash silica gel chromatograph with 50:50 ethyl acetate:hexane gave 0.090 g (8%) of the title compound. mp (.HCl) 74°-79° C. 13C NMR (base, CDCl3): δ 35.6, 43.9, 48.9, 51.2, 60.4, 60.7, 70.7, 76.7, 115.1, 115.4, 129.35, 129.46, 133.9, 144.9, 145.2, 149.9, 153.2, 158.9, 164.0. HRMS calcd for C18H20F2N4O (MH+): 347.1683, found: 347.1671.

reactant | (7R,8aS)-7-hydroxy-2-(5-fluoropyrimidin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine | 3.15 mmol, 0.75 g | O[C@@H]1C[C@@H]2N(CCN(C2)C2=NC=C(C=N2)F)C1 | C11H15FN4O
reactant | 4-fluorobenzyl bromide | 6.3 mmol, 0.79 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | sodium hydride | 3.8 mmol, 0.15 g | [H-].[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (7R,8aS)-7-(4-Fluorobenzyl)oxy-2-(5-fluoropyrimidin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine | 0.090 g, 8% | FC1=CC=C(CO[C@@H]2C[C@@H]3N(CCN(C3)C3=NC=C(C=N3)F)C2)C=C1 | C18H20F2N4O
